US07906517B2
Crude ethyl 4-{2-[(2-benzyloxy-5-trifluoromethyl-benzyl)-(3,5-bis-trifluoromethyl-benzyl)-amino]-pyrimidin-5-yloxy}-butyrate (11.3 g) is dissolved in ethanol (100 ml) and thereto is added 10% palladium-carbon (3 g), and the mixture is stirred under hydrogen atmosphere at room temperature for 2 hours. The catalyst is removed by filtration, and the filtrate is concentrated under reduced pressure. The resulting residue is purified by silica gel column chromatography (hexane:ethyl acetate=19:1→4:1) to give ethyl 4-{2-[(3,5-bis-trifluoromethyl-benzyl)-(2-hydroxy-5-trifluoromethyl-benzyl)-amino]-pyrimidin-5-yloxy}-butyrate (6.03 g). MS (m/z): 626 [M+H]+

reactant | ethyl 4-{2-[(2-benzyloxy-5-trifluoromethyl-benzyl)-(3,5-bis-trifluoromethyl-benzyl)-amino]-pyrimidin-5-yloxy}-butyrate | 11.3 g | C(C1=CC=CC=C1)OC1=C(CN(C2=NC=C(C=N2)OCCCC(=O)OCC)CC2=CC(=CC(=C2)C(F)(F)F)C(F)(F)F)C=C(C=C1)C(F)(F)F | C34H30F9N3O4
solvent | ethanol | 100 ml | C(C)O | C2H6O
catalyst | palladium-carbon | 3 g | [C].[Pd]
product | ethyl 4-{2-[(3,5-bis-trifluoromethyl-benzyl)-(2-hydroxy-5-trifluoromethyl-benzyl)-amino]-pyrimidin-5-yloxy}-butyrate | 6.03 g | FC(C=1C=C(CN(C2=NC=C(C=N2)OCCCC(=O)OCC)CC2=C(C=CC(=C2)C(F)(F)F)O)C=C(C1)C(F)(F)F)(F)F | C27H24F9N3O4
